US08124606B2
Methyl 6-(2-(methoxycarbonyl)-1H-pyrrol-1-yl)-5-nitronicotinate (5.00 g, 16.38 mmol) was dissolved in dichloromethane (Volume: 82 ml) and to this solution was added triphenyl phosphite (0.051 g, 0.164 mmol), ammonium metavanadate (0.115 g, 0.983 mmol) and Pt/C (5% wt.) (0.639 g, 0.164 mmol). The reaction mixture was hydrogenated at 100 psi at 25° C. for 36 h. The reaction mixture was filtered through a short plug of celite and the plug and precipitate were washed well with methanol (100 mL) and then MeOH:DCM (100 mL, 1:1). The solids (celite and Pt/C) were continuously extracted with Me0H/DCM mixture (1:1) in a Soxlet extractor for 2 d. The extracts were combined with the earlier filtrates, concentrated in vacuo, crystallized with MeOH (100 mL) and the resulting solid was filtered off and suspended in ethyl ether (200 mL). The solid were filtered off and dried in vacuum to afford methyl 6-oxo-5,6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate (2.15 g, 8.84 mmol, 54.0% yield) as a grey solid. 1H NMR (DMSO-d6) δ 11.49 (s, 1H), 8.69 (s, 1H), 8.15 (br. s., 1H), 8.11 (s, 1H), 7.16 (d, J=2.5 Hz, 1H), 6.78 (t, J=3.0 Hz, 1H), 3.91 (s, 3H). [M+H] calc'd for C12H9N3O3, 244; found, 244.

reactant | Methyl 6-(2-(methoxycarbonyl)-1H-pyrrol-1-yl)-5-nitronicotinate | 16.38 mmol, 5.00 g | COC(=O)C=1N(C=CC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C13H11N3O6
reactant | triphenyl phosphite | 0.164 mmol, 0.051 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 82 ml | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.983 mmol, 0.115 g | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 0.164 mmol, 0.639 g | [Pt] | Pt
product | methyl 6-oxo-5,6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate | 8.84 mmol, 2.15 g, 54.0% yield | O=C1C=2N(C3=C(N1)C=C(C=N3)C(=O)OC)C=CC2 | C12H9N3O3
